US07951803B2
To a solution of 10.0 g (50 mmol, 1.0 eq.) of 2-chloro-N-ethyl-5-nitropyrimidin-4-amine (I-1) in 300 mL of THF was added ˜4.0 g of Raney Nickel. The solution was stirred under 1 atm. of hydrogen at room temperature for 12 h. The reaction mixture was filtered through Celite® and the pad was washed with 100 mL of THF. The solvent was removed in vacuo to provide 8.0 g (46 mmol, 92%) of 2-chloro-N4-ethylpyrimidine-4,5-diamine (I-5).

reactant | 2-chloro-N-ethyl-5-nitropyrimidin-4-amine | 50 mmol, 10.0 g, 1.0 eq. | ClC1=NC=C(C(=N1)NCC)[N+](=O)[O-] | C6H7ClN4O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
catalyst | Raney Nickel | ˜4.0 g | [Ni] | Ni
product | 2-chloro-N4-ethylpyrimidine-4,5-diamine | 46 mmol, 8.0 g, 92% | ClC1=NC=C(C(=N1)NCC)N | C6H9ClN4
